US05113021
Ammonia (54.5 ml) is placed in a reaction flask. A solution of 109.5 g (0.338 mol) of 5-(2',2'-dibromo-3',3'-dimethylcyclopropyl)-3-methyl-1-pentyn-3-ol dissolved in 415 ml of diethyl ether is added. Sodium (37.4 g, 1.662 mol) in small portions is added at -42° to -36° within 11/2 hours. The mixture is stirred for 13/4 h, the ammonia is evaporated and 830 ml of hexane are added dropwise. The mixture is then stirred for 30 minutes and 60 ml of ethanol are added dropwise. The mixture is then poured into a mixture of ice and acetic acid, extracted with ether, washed neutral and evaporated. The crude product (52.9 g) is distilled at 0.06 Torr. In this manner there are obtained 27.4 g (48%) of 5-(2',2'-dimethylcyclopropyl)-3-methyl-1-pentyn-3-ol (purity 75%).

reactant | Ammonia | 54.5 ml | N | H3N
reactant | 5-(2',2'-dibromo-3',3'-dimethylcyclopropyl)-3-methyl-1-pentyn-3-ol | 0.338 mol, 109.5 g | BrC1(C(C1(C)C)CCC(C#C)(O)C)Br | C11H16Br2O
reactant | Sodium | 1.662 mol, 37.4 g | [Na] | Na
solvent | diethyl ether | 415 ml | C(C)OCC | C4H10O
product | 5-(2',2'-dimethylcyclopropyl)-3-methyl-1-pentyn-3-ol | 27.4 g, 48% | CC1(C(C1)CCC(C#C)(O)C)C | C11H18O
